US08445495B2
To a solution of tert-butyl 4-(2-fluoro-3-(3-(6-methylpyridin-3-yl)ureido)benzyl)piperazine-1-carboxylate (1.3 g, 2.9 mmol, 1.0 equiv) in MeOH (10 mL) was added by syringe HCl (4.0 M in dioxane, 10 mL, 40 mmol, 13.8 equiv) After 30 minutes, the reaction mixture was concentrated in vacuo. The resulting solid was then suspended in THF (10 mL) and methanesulfonyl chloride (220 μL, 2.9 mmol, 1.0 equiv) and DIPEA (2.0 mL, 11.5 mmol, 4.0 equiv) were added by syringe. The reaction mixture was allowed to stir at room temperature for 0.5 h and then quenched by the addition of aq. satd. NaHCO3. The organic layer was separated, dried over sodium sulfate and purified by flash chromatography on silica gel (1%-10% MeOH/DCM) to provide 1-(2-fluoro-3-((4-(methylsulfonyl)piperazin-1-yl)methyl)phenyl)-3-(6-methylpyridin-3-yl)urea (930 mg, 76%). LCMS m/z (APCI)=422.2 (M+H).

reactant | tert-butyl 4-(2-fluoro-3-(3-(6-methylpyridin-3-yl)ureido)benzyl)piperazine-1-carboxylate | 2.9 mmol, 1.3 g, 1.0 equiv | FC1=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1NC(=O)NC=1C=NC(=CC1)C | C23H30FN5O3
reactant | HCl | 40 mmol, 4.0 M, 10 mL, 13.8 equiv | Cl | ClH
reactant | methanesulfonyl chloride | 2.9 mmol, 220 μL, 1.0 equiv | CS(=O)(=O)Cl | CH3ClO2S
reactant | DIPEA | 11.5 mmol, 2.0 mL, 4.0 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH | 10 mL | CO | CH4O
product | 1-(2-fluoro-3-((4-(methylsulfonyl)piperazin-1-yl)methyl)phenyl)-3-(6-methylpyridin-3-yl)urea | 930 mg, 76% | FC1=C(C=CC=C1CN1CCN(CC1)S(=O)(=O)C)NC(=O)NC=1C=NC(=CC1)C | C19H24FN5O3S
